US06362210B1
Trans-3-(6-fluoro-naphth-2-yl)-acrylic acid-N-(2-carboxy-phenyl)-amide
Prepared analogously to Example 2 from trans-3-(6-fluoro-naphth-2-yl)-acrylic acid-N-(2-methoxycarbonyl-phenyl)-amide and sodium hydroxide solution in methanol.

reactant | trans-3-(6-fluoro-naphth-2-yl)-acrylic acid-N-(2-methoxycarbonyl-phenyl)-amide | COC(=O)C1=C(C=CC=C1)NC(\C=C\C1=CC2=CC=C(C=C2C=C1)F)=O | C21H16FNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | Trans-3-(6-fluoro-naphth-2-yl)-acrylic acid-N-(2-carboxy-phenyl)-amide | C(=O)(O)C1=C(C=CC=C1)NC(\C=C\C1=CC2=CC=C(C=C2C=C1)F)=O | C20H14FNO3
